US08791134B2
4-Nitrosotetrahydro-2H-pyran-4-yl 2-(acetyloxy)benzoate was prepared from tetrahydro-pyran-4-one oxime, lead tetraacetate and Aspirin using conditions of General Method 3. 1H NMR (500 MHz, CHLOROFORM-d) δ 8.15 (1H, dd, 7.8, 1.5 Hz), 7.65 (1H, td, 7.8, 1.5 Hz), 7.40 (1H, t, 7.6 Hz), 7.17 (1H, d, 8.1 Hz), 4.08 (2H, dt, 11.6, 4.1 Hz), 3.79 (2H, td, 11.5, 2.4 Hz), 2.21-2.29 (5H, m), 1.96-1.99 (2H, m).

reactant | tetrahydro-pyran-4-one oxime | O1CCC(CC1)=NO | C5H9NO2
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | Aspirin | CC(=O)OC=1C=CC=CC1C(=O)O | C9H8O4
product | 4-Nitrosotetrahydro-2H-pyran-4-yl 2-(acetyloxy)benzoate | C(C)(=O)OC1=C(C(=O)OC2(CCOCC2)N=O)C=CC=C1 | C14H15NO6
